US07732459B2
To a suspension of the (S)-4-(4-chloro-phenyl)-3,3-dimethyl-piperidin-4-ol (5.50 g, 22.94 mmol) in acetonitrile (200 mL) and water (50 mL) was added potassium carbonate (7.17 g, 51.9 mmol) followed by solid 1-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-ethanone (6.30 g, 17.3 mmol). The heterogeneous mixture was stirred at room temperature 4 hours, warmed to 50° C. and stirred 13 hours. The mixture was cooled to room temperature and acetonitrile was removed under reduced pressure. The aqueous layer was extracted with ethyl acetate (750 mL) and the extract was washed with brine, dried over sodium sulfate, filtered and concentrated. The crude residue was purified by silica gel chromatography (3:1 ethyl acetate:hexanes) to afford (S)-1-(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-ethanone as an off-white solid.

reactant | (S)-4-(4-chloro-phenyl)-3,3-dimethyl-piperidin-4-ol | 22.94 mmol, 5.50 g | ClC1=CC=C(C=C1)[C@@]1(C(CNCC1)(C)C)O | C13H18ClNO
reactant | potassium carbonate | 51.9 mmol, 7.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-ethanone | 17.3 mmol, 6.30 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)=O | C18H16BrNO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | (S)-1-(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-ethanone | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)=O)(C)C)O | C31H33ClN2O3
